US09422244B2
2.68 g (1 mol equiv.) 4-Ethyl-4,5-dihydro-1H-pyrazole (synthesized as described in WO 2008/034863) and 3.11 mL (1.3 mol equiv.) ethyl isothiocyanate were added to 20 mL ethanol. The reaction mixture was refluxed overnight, silica gel was added and volatiles were removed under reduced pressure. Purification by flash chromatography on silica gel (Et2O:PA=1:3) afforded 1.80 g (36%) 4-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide. 1H NMR (400 MHz, CDCl3) δ 0.99 (t, J=7.5 Hz, 3H), 1.25 (t, J=7.2 Hz, 3H), 1.47-1.71 (m, 2H), 3.08-3.18 (m, 1H), 3.63-3.72 (m, 2H), 3.86 (dd, J=11.5, 7.1 Hz, 1H), 4.25 (t, J=11.5 Hz, 1H), 6.90 (d, J=1.5 Hz, 1H), 7.12 (br.s., 1H).

reactant | 4-Ethyl-4,5-dihydro-1H-pyrazole | 1 mol, 2.68 g | C(C)C1C=NNC1 | C5H10N2
reactant | ethyl isothiocyanate | 1.3 mol, 3.11 mL | C(C)N=C=S | C3H5NS
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 1.80 g, 36% | C(C)NC(=S)N1N=CC(C1)CC | C8H15N3S
